US07589067B2
Step 6a. Compound of Formula: 2-Hydroxy-3-phenyl-propionic acid benzyl ester
To a solution of DL-Phenyllactic acid (5.0 g, 30.09 mmol) in DMF (30 mL) was added Cs2CO3 (10.79 g, 33.11 mmol) in portions during 10 minutes period at room temperature. The resulting mixture was stirred for 15 min at room temperature, followed by the addition of benzyl bromide (3.57 mL, 30.09 mmol). The resulting mixture was stirred at room temperature overnight. The reaction mixture was diluted with EtOAc (300 mL), washed with saturated NaHCO3, water (100×2) and brine, dried (Na2SO4) and filtered. The filtrate was concentrated to give 7.20 g (89%) of the title compound.

reactant | DL-Phenyllactic acid | 30.09 mmol, 5.0 g | C1=CC=C(C=C1)CC(C(=O)O)O | C9H10O3
reactant | Cs2CO3 | 33.11 mmol, 10.79 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | benzyl bromide | 30.09 mmol, 3.57 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 2-Hydroxy-3-phenyl-propionic acid benzyl ester | 7.20 g, 89% | C(C1=CC=CC=C1)OC(C(CC1=CC=CC=C1)O)=O | C16H16O3
